US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was alkylated using 5-(4-bromomethyl-phenyl)-isoxazole analogous to Example 1 to afford 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(4-isoxazol-5-yl-benzyl)-benzenesulfonamide: MS: m/e=496.0 (MH+), 513.2 (MNH4+).

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | 5-(4-bromomethyl-phenyl)-isoxazole | BrCC1=CC=C(C=C1)C1=CC=NO1 | C10H8BrNO
product | 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(4-isoxazol-5-yl-benzyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=NO1)[C@H]1C(NCCC(C1)(F)F)=O | C22H20ClF2N3O4S
